US03987047
1,2-Dihydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 1,2-dihydro-11-methyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 155.

reactant | 1,2-dihydro-11-methyl-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)C=CNCC2 | C14H14N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2-Dihydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 42% | Cl.C(C)OC(=O)N1C=CC2=NC=3C=CC=CC3C(=C2CC1)C | InChI=1S/C17H18N2O2.ClH/c1-3-21-17(20)19-10-8-14-12(2)13-6-4-5-7-15(13)18-16(14)9-11-19;/h4-7,9,11H,3,8,10H2,1-2H3;1H
